US07829597B2
To a solution of intermediate I 2-amino-2-benzylpropane-1,3-diol (0.09 g, 0.50 mmol) in 2 mL DMF cooled to 0° C. was added sodium hexamethyldisylazide (0.5 mL, 0.50 mmol, 1 M in THF). The reaction mixture was stirred at 0° C. for 5 min and intermediate A 3-(bromomethyl)-N-[(1R)-1-(4-fluorophenyl)ethyl]-5-[methyl(methylsulfonyl)amino]benzamide (0.1 g, 0.23 mmol) in 1 mL DMF was added dropwise. The reaction mixture was stirred at 0° C. for 0.5 h, quenched with water, extracted with EtOAc, washed with aq LiCl (3×), dried over sodium sulfate, concentrated in vacuo, and purified by flash chromatography (40 g silica, 0→8% (10% NH4OH in MeOH)/CH2Cl2) to afford 3-[(2-amino-2-benzyl-3-hydroxypropoxy)methyl]-N-[(1R)-1-(4-fluorophenyl)ethyl]-5-[methyl(methylsulfonyl)amino]benzamide. 1H NMR (400 MHz, d4-MeOH) δ 7.80 (s, 2H), 7.64 (s, 1H), 7.44-7.40 (m, 2H), 7.26-7.20 (m, 5H), 7.07-7.02 (m, 2H), 5.24 (q, J=7.0 Hz, 1H), 4.61 (s, 2H), 3.48 (A of AB, d, J=10.4 Hz, 1H), 3.43 (B of AB, d, J=10.4 Hz, 1H), 3.35 (s, 3H), 2.91 (s, 3H), 2.72 (A of AB, d, J=13.9 Hz, 1H), 2.66 ((B of AB, d, J=13.9 Hz, 1H), 1.57 (d, J=7.0 Hz, 3H). HRMS calculated for C28H34FN3O5S+H: 544.2276, found: 544.2275

reactant | 2-amino-2-benzylpropane-1,3-diol | 0.50 mmol, 0.09 g | NC(CO)(CO)CC1=CC=CC=C1 | C10H15NO2
reactant | sodium | [Na] | Na
reactant | 3-(bromomethyl)-N-[(1R)-1-(4-fluorophenyl)ethyl]-5-[methyl(methylsulfonyl)amino]benzamide | 0.23 mmol, 0.1 g | BrCC=1C=C(C(=O)N[C@H](C)C2=CC=C(C=C2)F)C=C(C1)N(S(=O)(=O)C)C | C18H20BrFN2O3S
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-[(2-amino-2-benzyl-3-hydroxypropoxy)methyl]-N-[(1R)-1-(4-fluorophenyl)ethyl]-5-[methyl(methylsulfonyl)amino]benzamide | NC(COCC=1C=C(C(=O)N[C@H](C)C2=CC=C(C=C2)F)C=C(C1)N(S(=O)(=O)C)C)(CO)CC1=CC=CC=C1 | C28H34FN3O5S
